US07332512B2
1-(4-Methylphenylthio)-2-nitro-1,3,4,4-tetrachlorobuta-1,3-diene
At room temperature, 4.72 g (38 mmol) of 4-methylthiophenol are added to a solution of 10.00 g (36.9 mmol) of 2-nitropentachloro-1,3-butadiene in 20 ml of ether, and the mixture is stirred for 20 h. The ether is then removed under reduced pressure, and the crystal slurry which is formed after addition of 20 ml of methanol is filtered off, washed with cold MeOH (2×10 ml) and dried under reduced pressure, yield 9.9 g (75%), Rf=0.72 (Et2O: petroleum ether=1:3), m.p. 110-111° C.

reactant | 4-methylthiophenol | 38 mmol, 4.72 g | CC1=CC=C(C=C1)S | C7H8S
reactant | 2-nitropentachloro-1,3-butadiene | 36.9 mmol, 10.00 g | [N+](=O)([O-])C(=C(Cl)Cl)C(=C(Cl)Cl)Cl | C4Cl5NO2
reactant | methanol | 20 ml | CO | CH4O
solvent | ether | 20 ml | CCOCC | C4H10O
product | 1-(4-Methylphenylthio)-2-nitro-1,3,4,4-tetrachlorobuta-1,3-diene | CC1=CC=C(C=C1)SC(=C(C(=C(Cl)Cl)Cl)[N+](=O)[O-])Cl | C11H7Cl4NO2S
